Simulation of an SAR ADC with Verilator and d_cosim

.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* https://sourceforge.net/p/ngspice/ngspice/ci/master/tree/examples/xspice/verilator/

* The digital portion of the circuit is specified in compiled Verilog.
* list the inputs and outputs
adut [ go clk reset_in comp_in comp_in ] [b7 b6 b5 b4 b3 b2 b1 b0 result7 result6 result5 result4 result3 result2 result1 result0 valid sample] null dut
.model dut d_cosim simulation="./sar_control.so"


.include "../xschem/simulation/r2r_dac.spice"
.include "../xschem/simulation/Sample_and_Hold.spice"
.include "../xschem/simulation/comparator.spice" 

xr2r_dac 0 0 b7 b6 b5 b4 b3 b2 b1 b0 dac_out r2r_dac
xcomparator en_n sh_out dac_out cal comp_in vcc 0 comparator
xSample_and_Hold sh_out sh_in 0 vcc sh_clk Sample_and_Hold

* simulate tt output path
R1 valid pin_out 500
C1 valid 0 5p



**** End of the ADC and its subcircuits.  Begin test circuit ****

.param vcc=1.8
vcc vcc 0 {vcc}

* Digital clock signal

aclock 0 clk clock
.model clock d_osc cntl_array=[-1 1] freq_array=[1Meg 1Meg]

* reset signal

Vreset reset_in 0 PULSE 1.8 0 1n 20p 20p 1u 100u 

* input signals

Vvin sh_in 0 sin(1.3 0.5 4000)
Vcal cal 0 pwl 0 0 29.9n 0 30.1n 1.8 109.9n 1.8 110.1n 0
Ven en_n 0 pwl 0 0 29.9n 0 30.1n 1.8 149.9n 1.8 150.1n 0
Vclk sh_clk 0 pulse (0 1.8 0.02n 0.02n 0.02n 400n 100u 8)
Vgo go 0 PULSE 0 1.8 1n 20p 20p 1u 100u 

.control
save sh_in sh_out dac_out sh_clk reset_in
tran 100n 400u
plot dac_out sh_out
plot comp_in
.endc
.end
